Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transfer from ___ for abdominal pain, vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G3P0 at ___ who presented to ___ with abdominal 
pain, nausea, and vomiting. Her VSS were stable, SVE L/C/P and 
she was transferrrd to ___.

At ___, she reports that sinceher last DC, she has had on and off 
N/V with compazine, zofran, pepcid, protonix, and ativan. She 
self dc'ed celexa. 

She also reports mild abdominal tightening once an hr. and 
vaginal "burning" that occurred once this AM and then resolved.
 
Past Medical History:
PRENATAL COURSE
- ___ ___ by LMP (___) c/w 11wk U/S
- Labs: O-/Ab-,GC/CT-,RPRnr,RI,HbsAg-,HIV-,Hbg 100%A
- LR quad
- FFS nl
- hx Chlamydia in ___ tri, pt/partner treated, neg test of 
re-infection (___)
- GERD/gastritis/freq abd pain
  - s/p admission ___,
    and ___
  - ___ neg  
  - ___ GI consult
  - ___ US: GB sludge, no cholecystitis or gallstones  
  - ___ abd/pelvis: no pathology  
  - ___ -> c/w severe gastritis; nl biopsies
- Psych: panic/anxiety/depression. seen by psychiatry during 
admissions, recommended klonopin (longer acting than ativan) and 
SSRI with Haldol PRN

OBHx: G3P0
-SAB x 2 requiring D&C

GynHx: denies history of abnormal paps or fibroids, + Chlamydia
(first trimester)

PMH: GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: ___
GENERAL: On stretcher, ice pack on head, eyes closed
CARDIAC: RRR
PULM: CTA
BACK: no CVA tenderness
ABDOMEN: soft, gravid, very mild TTP RUQ and LUQ and 
suprapubically. No rebound, no guarding
EXTREMITIES: NT
TAUS: BPP ___
SVE: L/C/P
Patient refused TOCO and EFM
 
Pertinent Results:
___ WBC-14.3 RBC-3.32 Hgb-10.0 Hct-28.3 MCV-87 Plt-384
___ Neuts-86.7 ___ Monos-3.1 Eos-0.1 Baso-0.1
___ WBC-12.1 RBC-3.26 Hgb-9.5 Hct-28.5 MCV-88 Plt-368

___ Glu-95 BUN-6 Cre-0.6 Na-138 K-3.5 Cl-104 HCO3-18
___ Glu-100 BUN-3 Cre-0.6 Na-139 K-3.4 Cl-107 HCO3-19
___ ALT-9 AST-16 TotBili-0.5
___ Calcium-9.1 Phos-2.4 Mg-1.4 UricAcd-4.8
___ Calcium-8.5 Phos-2.6 Mg-1.___ y/o G3P0 admitted at ___ with N/V, abdominal pain 
consistent with previous acute exacerbations of known gastritis.
.
On arrival, Ms ___ was clinically stable without any 
evidence of an acute abdomen. She was quite uncomfortable and 
uncooperative initially. She was treated with IV fluids, 
antiemetics, ativan, and pepcid/protonix. Fetal testing was 
reassuring and she was not contracting. Ultrasound on ___ 
revealed a vertex fetus with BPP ___, normal fluid, and EFW 
1589g(36%).
.
In regards to her history of possible preeclampsia, she had 
normal blood pressures throughout her admission.
.
By HD#4, she was symptomatically improved and tolerating po's. 
She requested to be discharged home. She will have close 
outpatient followup.
 
Medications on Admission:
protonix
 
Discharge Medications:
1. promethazine 25 mg tablet Sig: ___ tablets PO three times a 
day as needed for nausea.
Disp:*50 tablet(s)* Refills:*1*
2. prochlorperazine maleate 5 mg tablet Sig: ___ tablets PO 
three times a day as needed for nausea.  
3. ZOFRAN ODT 4 mg tablet,disintegrating Sig: ___ 
tablet,disintegratings PO three times a day as needed for 
nausea.  
4. Protonix 20 mg tablet,delayed release (___) Sig: One (1) 
tablet,delayed release (___) PO twice a day as needed for 
nausea.  
5. Prenatal ___ mg tablet Sig: One (1) tablet PO once a day.  

6. Ativan 0.5 mg tablet Sig: One (1) tablet PO every six (6) 
hours as needed for nausea.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis
Pregnancy
Pre-eclampsia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ for treatment of 
your gastritis.  You improved with medications and were able 
tolerate some food.  You had reassuring fetal testing.
 
Followup Instructions:
___